* C:\Users\names\Documents\GitHub\ELEN100Project2\LTSpice Schematic OpAmp6.asc
V1 N004 0 PULSE(0 1 .1 1u 0 3)
R1 N004 N001 1.3k
R3 N001 N005 1k
R2 N001 0 1.3k
R4 N002 N006 1000
R5 0 N006 1000
C2 N005 0 .1µ
C1 N002 N001 .1µ
V2 N007 0 15
XU1 N005 N006 N007 N003 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V3 N003 0 -15
.tran 0 .1026 .0996 1u
.lib UniversalOpamps2.sub
.backanno
.end
